US07429665B2
N-Methoxy-N-methyl-4-(2-quinolin-2-yl-ethyl)-benzamide
To a solution of 4-(2-Quinolin-2-yl-ethyl)-benzoic acid (530 mg) in dioxane 5 ml/acetonitrile 5 ml was added triethylamine (0.60 ml) and O,N-Dimethyl-hydroxylamine hydrogen chloride (240 mg). After 72 h, the reaction mixture was poured into 1N sodium hydroxide solution and extracted with chloroform, dried magnesium sulfate, filtered and concentrated. Biotage MPLC chromatography eluting with 20-50% ethyl acetate provided the title compound (516 mg, 88%). MS: (M+H m/z=321.1).

reactant | 4-(2-Quinolin-2-yl-ethyl)-benzoic acid | 530 mg | N1=C(C=CC2=CC=CC=C12)CCC1=CC=C(C(=O)O)C=C1 | C18H15NO2
reactant | acetonitrile | 5 ml | C(C)#N | C2H3N
reactant | O,N-Dimethyl-hydroxylamine hydrogen chloride | 240 mg | Cl.CONC
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | triethylamine | 0.60 ml | C(C)N(CC)CC | C6H15N
product | N-Methoxy-N-methyl-4-(2-quinolin-2-yl-ethyl)-benzamide | 516 mg, 88% | CON(C(C1=CC=C(C=C1)CCC1=NC2=CC=CC=C2C=C1)=O)C | C20H20N2O2
